US06258824B1
18B. 4-(3-Chloro-phenyl)-6-[(5-chloro-thiophen-2-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1H-quinolin-2-one
Following the same procedure as described in example 1F, [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(5-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanol (740 mg, 1.49 mmol) was treated with HCl in aqueous THF to yield the title compound of 18B as a yellow solid, 469.2 mg (0.97 mmol, 65% yield).

reactant | [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(5-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanol | 1.49 mmol, 740 mg | ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(O)(C=1N(C=NC1)C)C=1SC(=CC1)Cl)OC | C25H19Cl2N3O2S
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-(3-Chloro-phenyl)-6-[(5-chloro-thiophen-2-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1H-quinolin-2-one | ClC=1C=C(C=CC1)C1=CC(NC2=CC=C(C=C12)C(C=1N(C=NC1)C)(O)C=1SC(=CC1)Cl)=O | C24H17Cl2N3O2S
